US05525602
To a 0° C. solution of 4.59 g of methyl (E)-6-(1,3-dihydro-4-hydroxy-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate and 2.22 ml of pyridine in 100 ml of methylene chloride is added 2.55 ml of trifluoromethane sulfonic anhydride dropwise. After 30 minutes, the reaction mixture is poured into 1N aqueous sodium hydrogen sulfate. This mixture is extracted with dichloromethane, and the organic phase further washed with water and brine. The organic phase is dried over magnesium sulfate and concentrated under reduced pressure, to give methyl (E)-6-(1,3-dihydro-6-ethyl-7-methyl-4-trifluoromethyl sulfonyloxy-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate.

reactant | methyl (E)-6-(1,3-dihydro-4-hydroxy-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 4.59 g | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)CC)C)=O | C19H24O5
reactant | pyridine | 2.22 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethane sulfonic anhydride | 2.55 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogen sulfate | 1N | S(=O)(=O)(O)[O-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | methyl (E)-6-(1,3-dihydro-6-ethyl-7-methyl-4-trifluoromethyl sulfonyloxy-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | C(C)C1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C(F)(F)F)C/C=C(/CCC(=O)OC)\C | C20H23F3O7S
